US07371804B2
In a 500 mL three neck-round bottom flask equipped with condenser, magnetic stirring bar, dropping funnel, and Argon inlet, 15.00 g (49 mmol) of 1,1,1 tris(4-hydroxy-phenyl) ethane was dissolved in a 1:1 mixture of methylene chloride and tetrahydrofuran. To this mixture, a solution of sodium hydroxide 10.70 g (267 mmol) dissolved in 60 mL of distilled water was added while vigorously stirring. Allyl bromide, 33.36 g (276 mmol) was added followed by 2.5 g (5.96 mmol) tetraphenylphosphoniumbromide catalyst. The reaction mixture was left under positive pressure of Argon while stirring at room temperature. The reaction was monitored by TLC and stopped after 36 hours. The reaction mixture was transferred into separatory funnel and the product was extracted twice with 200 mL of methylene chloride. The organic layers were combined and extensively washed several times with distilled water. The organic extract was dried over anhydrous magnesium sulfate and filtered using Whattman filter paper. To this filtrate, activated charcoal was added and the mixture was stirred for 12 h. The charcoal was filtered and the solvent was evaporated using rotary evaporator. The resulting viscous compound was purified through column chromatography using silica as stationary phase and methylene chloride as an eluent. The solvent was removed using rotary evaporator to yield 14.50 g (70%) of clear, colorless, viscous liquid of 1,1,1 tris (4-allyloxy-phenyl) ethane. 1H NMR and IR spectra were consistent with 1,1,1 tris (4-allyloxy-phenyl) ethane. 1H NMR (CDCl3): 4.58 (m, CH2O, 6H), 2.17 (s, —CH3), 5.2 (m, ═CH2, 6H), 6.1 (m, ═CH, 3H), 6.81 (dd, 6 aromatic H ortho to OR), 7.03 (dd, 6 aromatic H meta to OR). IR (NaCl): Major bands at 1293 cm−1 (aromatic ether), 2912 cm−1 (aliphatic hydrocarbon), and 1648 cm−1 (unsaturated hydrocarbon).

reactant | 1,1,1 tris(4-hydroxy-phenyl) ethane | 49 mmol, 15.00 g | OC1=CC=C(C=C1)C(C)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C20H18O3
reactant | sodium hydroxide | 267 mmol, 10.70 g | [OH-].[Na+]
reactant | Allyl bromide | C(C=C)Br | C3H5Br
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 60 mL | O | H2O
catalyst | tetraphenylphosphoniumbromide | 5.96 mmol, 2.5 g | [Br-].C1(=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 1,1,1 tris (4-allyloxy-phenyl) ethane | C(C=C)OC1=CC=C(C=C1)C(C)(C1=CC=C(C=C1)OCC=C)C1=CC=C(C=C1)OCC=C | C29H30O3
